US07612201B2
N-(4-Acetyl-5-benzyloxy-2-bromo-phenyl)-acetamide
N-Bromosuccinimide (0.756 g, 4.27 mmol) was added portionwise to a solution of N-(4-acetyl-3-benzyloxy-phenyl)-acetamide (1.2 g, 4.24 mmol) in DMF (24 ml) and the reaction stirred overnight at room temperature. The reaction mixture was diluted with DCM, washed with water and dried over MgSO4 to afford a white solid (1.03 g, 67%). LC/MS: RT=2.609 min. 362/364 (MH+).

reactant | N-Bromosuccinimide | 4.27 mmol, 0.756 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-(4-acetyl-3-benzyloxy-phenyl)-acetamide | 4.24 mmol, 1.2 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)OCC1=CC=CC=C1 | C17H17NO3
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(4-Acetyl-5-benzyloxy-2-bromo-phenyl)-acetamide | 1.03 g, 67% | C(C)(=O)C1=CC(=C(C=C1OCC1=CC=CC=C1)NC(C)=O)Br | C17H16BrNO3
